US09034866B2
This compound was prepared according to a procedure similar to that described in Procedure A. In a solution of 3-Oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (2.25 g, 10 mmol) in tetrahydrofuran (20 mL) was dropped in ethynyl magnesium bromide (60 mL, 30 mmol) at −0° C. Then the solution was stirred overnight at room temperature. Then the reaction mixture was quenched with saturated NH4Cl and extracted with dichloromethane, dried with anhydrous sodium sulfate to afford 3-Ethynyl-3-hydroxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (0.8 g, 32%). 1H NMR: (DMSO-d6, 400 MHz) δ 5.43 (s, 1H), 3.98 (s, 2H), 3.24 (s, 1H), 2.08-1.91 (m, 8H), 1.37 (s, 9H).

reactant | 3-Oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 10 mmol, 2.25 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
reactant | ethynyl magnesium bromide | 30 mmol, 60 mL | C(#C)[Mg]Br
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-Ethynyl-3-hydroxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.8 g, 32% | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)(O)C#C | C14H21NO3
